US08048881B2
417.1. 2-trifluoromethanesulfonyloxy-cyclohex-1-enecarboxylic acid ethyl ester
At −78° C., a 1.6M n-butyllithium solution in hexane (2.6 ml) was added to diisopropylamine (0.6 ml) in THF (5 ml). The mixture was warmed to −30° C. and stirred for 30 min. The mixture was cooled down to −78° C. and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1.39 ml) in THF (5 ml) followed by ethyl 2-cyclohexanonecarboxylate (623 μl) in THF (3 ml) were added. The mixture was stirred at −78° C. for 2 h and N-phenyl-bis(trifluoromethanesulfonimide) (1.5 g) in THF (5 ml) was added. The mixture was allowed to 0° C. and was stirred at 0° C. for 6 h. The solvent was evaporated off and the crude purified by column chromatography (EA/Hept 1/3) to afford 1.09 g of the desired compound.

reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | diisopropylamine | 0.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 2-cyclohexanonecarboxylate | 623 μl | CCOC(=O)C1CCCCC1=O | C9H14O3
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 1.5 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | hexane | 2.6 ml | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1.39 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-trifluoromethanesulfonyloxy-cyclohex-1-enecarboxylic acid ethyl ester | 1.09 g | C(C)OC(=O)C1=C(CCCC1)OS(=O)(=O)C(F)(F)F | C10H13F3O5S
